US07906654B2
Synthesis of 2-(4-acetylphenyl)-2-methylpropanenitrile
2-(4-bromophenyl)-2-methylpropanenitrile (1 g, 4.46 mmol) is dissolved in anhydrous THF (75 ml) the solution is cooled down to −100° C. with a diethyl ether-liquid nitrogen bath, n-butyl lithium 2M in c-hexane (4.0 ml, 8.0 mmol) is added and this reaction mixture stirred for 10 min., then N-methoxy-N-methyl acetamide (1.6 g, 15.6 mmol) is added and the reaction is then left to slowly warm-up to room temperature. After work-up (washing with acidic brine) and concentration the crude mixture is purified on silica gel using a 0 to 50% ethyl acetate in hexane gradient, to give the desired compound (660 mg, 78%) as a clear oil.

reactant | 2-(4-bromophenyl)-2-methylpropanenitrile | 4.46 mmol, 1 g | BrC1=CC=C(C=C1)C(C#N)(C)C | C10H10BrN
reactant | n-butyl lithium | 2M | C(CCC)[Li]
reactant | N-methoxy-N-methyl acetamide | 15.6 mmol, 1.6 g | CON(C(C)=O)C | C4H9NO2
solvent | THF | 75 ml | C1CCOC1 | C4H8O
product | 2-(4-acetylphenyl)-2-methylpropanenitrile | 660 mg, 78% | C(C)(=O)C1=CC=C(C=C1)C(C#N)(C)C | C12H13NO
